US07700633B2
To a solution of N-(5-amino-2-benzyloxyphenyl)-formamide (3.35 g, 13.8 mmol) in 0.3N HCl (91 mL) is added sodium nitrite (0.285 g, 4.13 mmol) at 0° C. The mixture is stirred for 0.5 h. This mixture is added to a solution prepared by mixing ethyl-2-methylacetoacetate (0.72 g, 4.99 mmol) with potassium hydroxide (0.28 g, 4.99 mmol) at 0° C. The combined mixture is stirred for ˜1 h. To the reaction mixture is added saturated aqueous sodium chloride and extracted with EtOAc. The combined organic extracts are washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated to afford a mixture of 2-[(4-benzyloxy-3-formylaminophenyl)-hydrazono]-propionic acid ethyl ester and 2-(4-benzyloxy-3-formylaminophenylazo)-2-methyl-3-oxo-butyric acid ethyl ester as a dark oil. The mixture of 2-[(4-benzyloxy-3-formylaminophenyl)-hydrazono]-propionic acid ethyl ester and 2-(4-benzyloxy-3-formylaminophenylazo)-2-methyl-3-oxo-butyric acid ethyl ester, is dissolved in formic acid (10 mL) and stirred at 80° C. for 4.5 h. The reaction mixture is neutralized with saturated sodium bicarbonate and the resulting mixture is extracted with EtOAc and washed with brine and water. The organic phase is separated and dried over MgSO4 and concentrated to afford 5-benzyloxy-6-formylamino-1H-indole-2-carboxylic acid ethyl ester as a grey solid: (M−H)−=337.1.

reactant | N-(5-amino-2-benzyloxyphenyl)-formamide | 13.8 mmol, 3.35 g | NC=1C=CC(=C(C1)NC=O)OCC1=CC=CC=C1 | C14H14N2O2
reactant | sodium nitrite | 4.13 mmol, 0.285 g | N(=O)[O-].[Na+]
reactant | ethyl-2-methylacetoacetate | 4.99 mmol, 0.72 g | C(C)OC(C(C(=O)C)C)=O | C7H12O3
reactant | potassium hydroxide | 4.99 mmol, 0.28 g | [OH-].[K+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | 2-[(4-benzyloxy-3-formylaminophenyl)-hydrazono]-propionic acid ethyl ester | C(C)OC(C(C)=NNC1=CC(=C(C=C1)OCC1=CC=CC=C1)NC=O)=O | C19H21N3O4
reactant | 2-(4-benzyloxy-3-formylaminophenylazo)-2-methyl-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)(C)N=NC1=CC(=C(C=C1)OCC1=CC=CC=C1)NC=O)=O | C21H23N3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 0.3N, 91 mL | Cl | ClH
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 5-benzyloxy-6-formylamino-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OCC1=CC=CC=C1)NC=O | C19H18N2O4
